US04380544
125 g of 2,4-dichlorobenzyl chloride are added at room temperature to a mixture of 700 g of 50% sodium hydroxide, 23 g of tetrabutylammonium iodide and 130 g of α-(3-pyridyl)-4-morpholineacetonitrile. After 2 hours the mixture is extracted with diethyl ether. After evaporation of the ether, the crude product, α-(2,4-dichlorobenzyl)-α-(3-pyridyl)-4-morpholineacetonitrile (m.p. 130°-132°), remains behind. The crude product is taken up in 300 ml of concentrated hydrochloric acid and the solution is heated to reflux temperature for 12 hours. The reaction mixture is made basic and extracted with ethyl acetate, and the organic phase is washed, dried over anhydrous sodium sulfate and concentrated. Crystallization from ethyl acetate/n-hexane yields 2,4-dichlorobenzyl 3-pyridyl ketone of melting point 78°-79°.

reactant | 2,4-dichlorobenzyl chloride | 125 g | ClC1=C(CCl)C=CC(=C1)Cl | C7H5Cl3
reactant | sodium hydroxide | 700 g | [OH-].[Na+]
reactant | α-(3-pyridyl)-4-morpholineacetonitrile | 130 g | N1=CC(=CC=C1)C(C#N)N1CCOCC1 | C11H13N3O
catalyst | tetrabutylammonium iodide | 23 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2,4-dichlorobenzyl 3-pyridyl ketone | N1=CC(=CC=C1)C(=O)CC1=C(C=C(C=C1)Cl)Cl | C13H9Cl2NO
